US07683064B2
To a rapidly stirred solution of 2-[3-bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-cyclopropyl-3-hydroxy-3,4-dihydro-2H-isoquinolin-1-one (3.52 g, 7.00 mmol) and triethylamine (4.0 mL, 29 mmol) in 50 mL of anhydrous CH2Cl2 was added 0.85 mL of methanesulfonyl chloride. Purged the flask with nitrogen and stirred at room temperature overnight. Added 25 mL of CH2Cl2 and 50 mL of water and separated phases. Washed the organic phase with 50 ml brine. Dried the solution over MgSO4 and concentrated in vacuo. Purified the residue by flash chromatography (gradient elution, 0 to 50% EtOAc/hexane) to obtain 2-[3-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one as an amber resin (2.90 g, 5.99 mmol). MS (ESI) 484, 486 (M+H)+.

reactant | 2-[3-bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-cyclopropyl-3-hydroxy-3,4-dihydro-2H-isoquinolin-1-one | 7.00 mmol, 3.52 g | BrC=1C(=C(C=CC1)N1C(C2=CC=C(C=C2CC1O)C1CC1)=O)C(O[SiH2]C(C)(C)C)(C)C | C25H32BrNO3Si
reactant | triethylamine | 29 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.85 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one | BrC=1C(=C(C=CC1)N1C(C2=CC=C(C=C2C=C1)C1CC1)=O)C(O[SiH2]C(C)(C)C)(C)C | C25H30BrNO2Si
